US03953415
8.5 g. 4.41 mmoles) of Z-27-39-OtBu are dissolved in 850 ml. of dry DMF, and the mixture is hydrogenated in the presence of palladium-on-carbon. At the end of the reaction, the catalyst is removed by filtration; the filtate is evaporated to dryness, and the residue is triturated with ether. 7.65 g. (96.9 %) of H-27-39-OtBu are obtained. M.p.: 197°C (under decomposition), Rf12 = 0.3.

reactant | Z-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser-Ala-Glu(OtBu)-Ala-Phe-Pro-Leu-Glu(OtBu)-Phe-OtBu | N([C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C97H145N13O27
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | DMF | CN(C)C=O | C3H7NO
product | H-Ala-Glu(OtBu)-Asp(OtBu)-Glu(OtBu)-Ser-Ala-Glu(OtBu)-Ala-Phe-Pro-Leu-Glu(OtBu)-Phe-OtBu | 96.9 % | N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC(C)(C)C)CCC1 | C89H139N13O25
